US06069109
Synthesis of (n-butylcyclopentadienyl)hafnium Trispivalate
To a solution of bis(n-butylcyclopentadienyl)hafnium dichloride (0.500 g, 1.012 mmol ) and pivalic acid (0.330 g, 3.230 mmol ) in toluene (30 ml) at 50° C. was added triethylamine (0.363 g, 3.240 mmol ) with stirring. A white precipitate formed immediately which was removed by filtration. The title compound was isolated as a dark yellow oil in 66% yield by evaporating the solvent under vacuum. The title compound such prepared exhibit purity above 95% based on NMR results. 1H NMR (toluene-d8) δ 6.15 (m, 2H), 5.90 (m,2H), 2.67 (t,J=7.6 Hz, 2H), 1.54 (m, 2H), 1.31 (m, 2H), 1.13 (s, 27H), 0.88 (t, J=7.2 Hz, 3H).

reactant | bis(n-butylcyclopentadienyl)hafnium dichloride | 1.012 mmol, 0.500 g | [Cl-].[Cl-].C(CCC)C1(C=CC=C1)[Hf+2]C1(C=CC=C1)CCCC
reactant | pivalic acid | 3.230 mmol, 0.330 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | triethylamine | 3.240 mmol, 0.363 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (n-butylcyclopentadienyl)hafnium Trispivalate | 66% yield | C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].C(CCC)C1(C=CC=C1)[Hf+3] | InChI=1S/C9H13.3C5H10O2.Hf/c1-2-3-6-9-7-4-5-8-9;3*1-5(2,3)4(6)7;/h4-5,7-8H,2-3,6H2,1H3;3*1-3H3,(H,6,7);/q;;;;+3/p-3
